US08003649B2
A mixture of 1-piperidin-4-yl-4H-3,1-benzoxazin-2-one hydrochloride and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 4. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 1-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-4H-3,1-benzoxazin-2-one.

reactant | 1-piperidin-4-yl-4H-3,1-benzoxazin-2-one hydrochloride | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 1-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-4H-3,1-benzoxazin-2-one | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)N2C(OCC1=C2C=CC=C1)=O)(F)F | C19H17F3N6O2
